US06685995B1
To the Grignard reagent which was prepared from 4.80 g (198 mmol) of dried magnesium and 50.0 g (191 mmol) of 2-(4-n-pentylcyclohexyl)bromoethane in 500 ml of THF, was added dropwise 200 ml of solution of 40.0 g (168 mmol) of bicyclohexanedione monoethylene ketal in THF at room temperature, and the mixture was stirred at the same temperature for 12 hours. The reaction solution was added to 500 ml of 0.5N hydrochloric acid, the product thus formed was extracted with ether, the extract was washed with saturated aqueous sodium bicarbonate solution and water in this turn, and then the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/ethyl acetate=3/1), the solvent was distilled off, the residue was refluxed in 200 ml of formic acid for 3 hours, 200 ml of water was added to the reaction solution, the product thus formed was extracted with toluene, the extract was washed with water, saturated aqueous sodium bicarbonate solution, and water in this turn, and then dried over magnesium sulfate. After the solvent was distilled off and the residue was purified by column chromatography (eluent: heptane/ethyl acetate=1/1), the solvent was distilled off, and the residue was recrystallized from ethanol to give 15.0 g of 4-(4-(2-(4-n-pentylcyclohexyl)-ethyl)-3-cyclohexenyl)-cyclohexanone. Yield of this compound based on bicyclohexanedione monoethylene ketal was 24.9%.

reactant | magnesium | 198 mmol, 4.80 g | [Mg] | Mg
reactant | 2-(4-n-pentylcyclohexyl)bromoethane | 191 mmol, 50.0 g | C(CCCC)C1CCC(CC1)CCBr | C13H25Br
reactant | bicyclohexanedione monoethylene ketal | 168 mmol, 40.0 g | C1COC2(C(CCCC2=O)C2CCCCC2)O1 | C14H22O3
reactant | hydrochloric acid | 0.5N, 500 ml | Cl | ClH
reactant | THF | 500 ml | C1CCOC1 | C4H8O
product | 4-(4-(2-(4-n-pentylcyclohexyl)-ethyl)-3-cyclohexenyl)-cyclohexanone | 15.0 g | C(CCCC)C1CCC(CC1)CCC1=CCC(CC1)C1CCC(CC1)=O | C25H42O
